US04714702
3.6 g of N-(2-amino-5-nitrobenzoyl)-2,3-dimethylaniline and 1.82 g of fluoroacetyl chloride are treated in the same manner as described in Example 1-(1), whereby 3.8 g of N-(2-fluoroacetamido-5-nitrobenzoyl)-2,3-dimethylaniline are obtained as colorless needles.

reactant | N-(2-amino-5-nitrobenzoyl)-2,3-dimethylaniline | 3.6 g | NC1=C(C(=O)NC2=C(C(=CC=C2)C)C)C=C(C=C1)[N+](=O)[O-] | C15H15N3O3
reactant | fluoroacetyl chloride | 1.82 g | FCC(=O)Cl | C2H2ClFO
product | N-(2-fluoroacetamido-5-nitrobenzoyl)-2,3-dimethylaniline | 3.8 g | FCC(=O)NC1=C(C(=O)NC2=C(C(=CC=C2)C)C)C=C(C=C1)[N+](=O)[O-] | C17H16FN3O4
